US08168651B2
Under nitrogen atmosphere, 7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridin-5(6H)-one (1.8 g, 6.84 mmol) was mixed with Phosphorus oxychloride (3.2 ml) in acetonitrile (20 ml). The mixture was stirred overnight at 100° C. The volatiles were removed in vacuo. The resulting solid was suspended in CH2Cl2 and a little bit of MeOH. After filtration and drying, crude 5-chloro-7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridine (2.04 g) was isolated as a greenish solid. LCMS (ES) m/z 282 [M+1]+.

reactant | 7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridin-5(6H)-one | 6.84 mmol, 1.8 g | N=1N=C(NC1)C1=CC=CC2=C1NC(C1=CC=NC=C21)=O | C14H9N5O
reactant | Phosphorus oxychloride | 3.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-chloro-7-(4H-1,2,4-triazol-3-yl)benzo[c][2,6]naphthyridine | 2.04 g | ClC1=NC2=C(C3=CN=CC=C13)C=CC=C2C2=NN=CN2 | C14H8ClN5
